US08629133B2
Ethyl trans-4-({[2-(trimethylsilyl)ethoxy]carbonyl}amino)cyclohexanecarboxylate
Ethyl trans-4-aminocyclohexanecarboxylate (J. Med. Chem., 1971, 14, 600-614) (29.5 g, 143 mmol) was dissolved in 1,4-dioxane (290 ml) and water (290 ml), triethylamine (30.0 ml, 215 mmol) and 1-[2-(trimethylsilyl)ethoxycarbonyloxy]pyrrolidine-2,5-dione (40.8 g, 157 mmol) were added under ice cooling and the resulting mixture was stirred at room temperature for 2 days. The reaction mixture was concentrated and then the residue was diluted with ethyl acetate and washed with 10% aqueous citric acid solution, saturated sodium bicarbonate solution, and brine in that order. The organic layer was dried over anhydrous sodium sulfate and the solvent was concentrated under reduced pressure to give 44.3 g (98%) of the title compound as colorless needle-like crystals.

reactant | Ethyl trans-4-aminocyclohexanecarboxylate | 143 mmol, 29.5 g | N[C@@H]1CC[C@H](CC1)C(=O)OCC | C9H17NO2
reactant | triethylamine | 215 mmol, 30.0 ml | C(C)N(CC)CC | C6H15N
reactant | 1-[2-(trimethylsilyl)ethoxycarbonyloxy]pyrrolidine-2,5-dione | 157 mmol, 40.8 g | C[Si](CCOC(=O)ON1C(CCC1=O)=O)(C)C | C10H17NO5Si
solvent | 1,4-dioxane | 290 ml | O1CCOCC1 | C4H8O2
solvent | water | 290 ml | O | H2O
product | Ethyl trans-4-({[2-(trimethylsilyl)ethoxy]carbonyl}amino)cyclohexanecarboxylate | 44.3 g, 98% | C[Si](CCOC(=O)N[C@@H]1CC[C@H](CC1)C(=O)OCC)(C)C | C15H29NO4Si
